US07282588B2
N-ethyl-N′-[4-(2-methyl-5-{1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1,3-oxazol-4-yl)phenyl]urea
Following the procedure described for Intermediate 31 with 4-(2-methyl-5-{1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1,3-oxazol-4-yl)aniline and ethyl isocyanate provided the title compound. ESMS [M+H]+: 516.2

reactant | 4-(2-methyl-5-{1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1,3-oxazol-4-yl)aniline | CC=1OC(=C(N1)C1=CC=C(N)C=C1)C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C24H20N4O3S
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
product | N-ethyl-N′-[4-(2-methyl-5-{1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1,3-oxazol-4-yl)phenyl]urea | C(C)NC(=O)NC1=CC=C(C=C1)C=1N=C(OC1C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)C | C27H25N5O4S
